US07951794B2
To a solution of 5-methyl-4-phenyl-thiophene-2-carboxylic acid (1.50 g, 6.87 mmol) in diethyl ether (100 mL) MeLi (7 mL, 1.5 M in diethyl ether) is added at 5° C. The mixture is stirred at it for 90 min before another portion of MeLi (1 mL) is added. Stirring is continued for 1 h. The mixture is diluted with water and extracted with EA. The organic extracts are evaporated and the crude product is purified by CC on silica gel eluting with heptane:EA 4:1 to give 1-(5-methyl-4-phenyl-thiophen-2-yl)-ethanone (490 mg) as a colourless oil, LC-MS: tR=1.00 min, [M+1]+=217.10; 1H NMR (CDCl3): δ 7.62 (s, 1H), 7.48-7.33 (m, 5H), 2.54 (s, 6H).

reactant | 5-methyl-4-phenyl-thiophene-2-carboxylic acid | 6.87 mmol, 1.50 g | CC1=C(C=C(S1)C(=O)O)C1=CC=CC=C1 | C12H10O2S
reactant | MeLi | 1 mL | [Li]C
solvent | diethyl ether | 1.5 M, 100 mL | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 1-(5-methyl-4-phenyl-thiophen-2-yl)-ethanone | 490 mg | CC1=C(C=C(S1)C(C)=O)C1=CC=CC=C1 | C13H12OS
